US04413144
710 parts of chlorobenzene and 160 parts of AlCl3 are initially introduced. A mixture of 120 parts of cumene, 185.6 parts of p-nitrobenzoyl chloride and 410 parts of chlorobenzene is added dropwise in the course of 1 hour at 20° to 25° C., HCl gas being liberated. The mixture is then heated in the course of 1 hour to 60° C. and stirred for 1 hour at 60° C., 1,400 parts of ice are added, the aqueous phase is separated off in a separating funnel and the organic phase is concentrated in vacuo. 247.6 parts of 4-isopropyl-4'-nitrobenzophenone having a melting point of 95° C. are obtained. Yield: 92% of theory.

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | cumene | C1(=CC=CC=C1)C(C)C | C9H12
reactant | p-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | HCl | Cl | ClH
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-isopropyl-4'-nitrobenzophenone | Yield: 92% | C(C)(C)C1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C16H15NO3
